US07094790B2
Methanesulfonic acid 2-(5-bromo-benzothiazol-2-yl)-ethyl ester
To a mixture of 2-(5-bromo-benzothiazol-2-yl)-ethanol (0.94 g, 3.6 mmol) in 10 mL CH2Cl2, Et3N (0.99 g, 9.8 mmol), was added methanesulfonyl chloride (0.46 g, 4.0 mmol) dropwise at room temperature. The reaction was worked up by concentrating under vacuum and then used in the next step, Example 1C.

reactant | 2-(5-bromo-benzothiazol-2-yl)-ethanol | 3.6 mmol, 0.94 g | BrC=1C=CC2=C(N=C(S2)CCO)C1 | C9H8BrNOS
reactant | Et3N | 9.8 mmol, 0.99 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.0 mmol, 0.46 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(5-bromo-benzothiazol-2-yl)-ethyl ester | BrC=1C=CC2=C(N=C(S2)CCOS(=O)(=O)C)C1 | C10H10BrNO3S2
